US06281240B1
2,3-Dihydrobenzofuran-5-sulfonamide
This compound was prepared essentially according to the teachings of J. A. Aikins, et al., European Patent Publication 254,577, published Jan. 27, 1988. N,N-dimethylformamide (23.0 ml, 297 mmol) was cooled in an ice-salt bath and treated dropwise with sulfuryl chloride (20.0 g, 148 mmol) at such a rate that the reaction temperature was maintained below 15° C. To this was added 2,3-dihydrobenzofuran (17.0 g, 142 mmol), and after warming to room temperature, the reaction mixture was rapidly heated to 130° C. over ten minutes, and then allowed to cool to room temperature. The reaction mixture was poured into water/ice/dichloromethane, 1/5/1 (700 ml), and the organic layer collected. The aqueous layer was diluted with water (100 ml) and extracted with dichloromethane. The combined organic phase was dripped into an ammonium hydroxide solution (3N, 250 ml), and allowed to stir overnight. Residual dichloromethane was removed by distillation and the resulting solid collected on a filter, washed with a small amount of water, followed by ether and then dried by aspiration to provide 12.8 g (45%) of the product.

reactant | N,N-dimethylformamide | 297 mmol, 23.0 ml | CN(C=O)C | C3H7NO
reactant | sulfuryl chloride | 148 mmol, 20.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,3-dihydrobenzofuran | 142 mmol, 17.0 g | O1CCC2=C1C=CC=C2 | C8H8O
product | 2,3-Dihydrobenzofuran-5-sulfonamide | 12.8 g, 45% | O1CCC2=C1C=CC(=C2)S(=O)(=O)N | C8H9NO3S
